US04920132
A mixture of 2.6 g of methyl 3-methoxy-4-[3-(2-quinolinylmethyloxy)benzyloxy]benzoate and 0.6 g of NaOH in 15 ml of THF and 2 ml of H2O are heated at 60° C. overnight. The reaction mixture is diluted with 20 ml of H2O and acidified to pH 4. The product is collected on a filter and dried to give 3-methoxy-4-(3-(2-quinolinylmethyloxy)benzyloxy)benzoic acid. (M.P. 188°-190° C.)

reactant | methyl 3-methoxy-4-[3-(2-quinolinylmethyloxy)benzyloxy]benzoate | 2.6 g | COC=1C=C(C(=O)OC)C=CC1OCC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C26H23NO5
reactant | NaOH | 0.6 g | [OH-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | H2O | 2 ml | O | H2O
solvent | H2O | 20 ml | O | H2O
product | 3-methoxy-4-(3-(2-quinolinylmethyloxy)benzyloxy)benzoic acid | COC=1C=C(C(=O)O)C=CC1OCC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C25H21NO5
